US04146614
Benzyl O-benzylthreonylvalylleucinate is prepared from 1 gram of benzyl O-benzylthreonylvalylleucinate hydrochloride as in Example 5 and is dissolved in acetic acid, and 2 equivalents acetic anhydride based on the benzyl ester are added. The mixture is stirred overnight. The solvents are evacuated in vacuo. The residue is recrystallized from methanol/ether, to yield 806 milligrams of benzyl N-α-acetyl-O-benzylthreonylvalylleucinate (85% yield).

reactant | benzyl O-benzylthreonylvalylleucinate hydrochloride | 1 gram | Cl.C(C1=CC=CC=C1)O[C@@H]([C@H](N)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1)C
reactant | acetic anhydride | 2 equivalents | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Benzyl O-benzylthreonylvalylleucinate | C(C1=CC=CC=C1)O[C@@H]([C@H](N)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1)C | C29H41N3O5
